2114-12-21 09:39:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed ~2.2 L negative overnght
   Feels breathing much more comfortable this morning, Sa02 97% on 5L NC
   History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-12-20**] 05:00 PM
   Vancomycin - [**2114-12-20**] 08:34 PM
   Cefipime - [**2114-12-20**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-12-20**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea, dry
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-12-21**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 84 (76 - 99) bpm
   BP: 110/51(65) {94/26(44) - 138/100(104)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    810 mL
                  PO:
                                                                    460 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    550 mL
   Urine:
                                                                  3,100 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,290 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases examined lying in
   bed getting echo)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   145 K/uL
   113 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   100 mEq/L
   135 mEq/L
   21.0 %
   0.9 K/uL
        [image002.jpg]
                            [**2114-12-20**]  04:00 PM
                            [**2114-12-21**]  05:18 AM
   WBC
   0.9
   Hct
   21.9
   21.0
   Plt
   145
   Cr
   0.8
   0.8
   Glucose
   107
   113
   Other labs: PT / PTT / INR:15.0/35.5/1.3, ALT / AST:214/111, Alk Phos /
   T Bili:125/1.1, Differential-Neuts:28.0 %, Band:0.0 %, Lymph:68.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.1 g/dL, LDH:425 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY FAILURE:  Responded well with clinical improvement
   to diuresis.  Etiology of acute respiratory failure secondary to volume
   overload in setting of multiple blood transfusions superimposed on
   pneumonia.  CXR with increased confluence of infiltrates on the left
   related to evolving pneumonia, may increase as her counts come back.
   On vanco/cefipime/levo.  Now on nasal cannula. Stable for transfer back
   to the OMED floor.  Repleting phos and K, repeat electrolytes this
   afternoon.
 ANEMIA, CHRONIC:  Hct stable overnight.  No need for transfusion.
   Following [**Hospital1 **] CBCs.  She should get lasix with further blood
   transfusions to avoid volume overload and respiratory compromise.
   ICU Care
   Nutrition:
   Comments: Neutropenic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-12-20**] 12:44 PM
   18 Gauge - [**2114-12-20**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes